US08003649B2
A stirred mixture of tert-butyl 4-(6-chloropyridazin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate (870 mg, 2.94 mmol) and hydrazine hydrate (4.29 mL, 88.25 mmol) in acetonitrile (15 mL) was heated at 80° C. for 4 hours. The mixture was partially evaporated (removing MeCN) and diluted with water (10 mL). The reaction mixture was extracted with DCM (3×50 mL). The organic layer was dried over Na2SO4, filtered and evaporated to afford crude product as a gum, which crystallised on trituration with ether. The precipitate was collected by filtration, washed with ether and dried under vacuum to afford tert-butyl 4-(6-hydrazinylpyridazin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate (503 mg, 58.7%) as a cream crystalline solid.

reactant | tert-butyl 4-(6-chloropyridazin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 2.94 mmol, 870 mg | ClC1=CC=C(N=N1)C1=CCN(CC1)C(=O)OC(C)(C)C | C14H18ClN3O2
reactant | hydrazine hydrate | 88.25 mmol, 4.29 mL | O.NN
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | tert-butyl 4-(6-hydrazinylpyridazin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 503 mg, 58.7% | N(N)C1=CC=C(N=N1)C1=CCN(CC1)C(=O)OC(C)(C)C | C14H21N5O2
